US07884127B2
2-Bromo-4-methoxy-benzoic acid
2-Bromo-4-nitrobenzoic acid (3 g, 12.2 mmol) was reacted with sodium methoxide (6 g, 111 mmol) in dry DMSO (250 mL) at 80° C. After completion of reaction mixture was poured over crushed ice, acidified with 1:1 HCl and extracted with EtOAc (3×150 mL). The organic layer was concentrated to obtain the title compound.

reactant | 2-Bromo-4-nitrobenzoic acid | 12.2 mmol, 3 g | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | sodium methoxide | 111 mmol, 6 g | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMSO | 250 mL | CS(=O)C | C2H6OS
product | 2-Bromo-4-methoxy-benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)OC | C8H7BrO3
